2110-01-20 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2110-1-20**] 12:45 AM
 EKG - At [**2110-1-20**] 04:08 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2110-1-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-1-20**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 102 (98 - 105) bpm
   BP: 137/60(76) {137/60(76) - 166/111(116)} mmHg
   RR: 51 (30 - 54) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  120 mL
   PO:
                  120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,000 mL
   Urine:
   1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: 7.36/50/73.[**Numeric Identifier 218**]/28/1
   PaO2 / FiO2: 73
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   21 K/uL
   10.2 g/dL
   86 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   28 mg/dL
   102 mEq/L
   138 mEq/L
   30.9 %
   30.7 K/uL
        [image002.jpg]
                             [**2110-1-20**]  12:00 AM
                             [**2110-1-20**]  12:09 AM
                             [**2110-1-20**]  05:41 AM
                             [**2110-1-20**]  05:58 AM
   WBC
   33.1
   30.7
   Hct
   30.7
   30.9
   Plt
   23
   21
   Cr
   0.9
   0.8
   TCO2
   26
   29
   Glucose
   89
   86
   Other labs: PT / PTT / INR:14.3/41.1/1.2, CK / CKMB / Troponin-T:25//,
   ALT / AST:40/41, Alk Phos / T Bili:539/1.5, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:568 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 PULMONARY EDEMA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-1-20**] 12:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2110-01-21 07:36:00 Physician Resident Progress Note
Chief Complaint: 53 y/o woman with metastatic melanoma who is admitted
   to the [**Hospital Unit Name 1**] from the OMED biologics service due to respiratory
   distress.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2110-1-20**] 12:10 PM
 ULTRASOUND - At [**2110-1-20**] 12:27 PM
   -Intermittently tiring and recovering.  Managed to avoid intubation
   most of the day with persistent hypercapnia and tachypnea.
   -After multiple failed attempts at ABG placement patient elected to
   just get intermittently stuck for ABG's
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2110-1-20**] 08:00 PM
   Piperacillin - [**2110-1-21**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2110-1-21**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2110-1-21**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (96.9
   HR: 95 (85 - 110) bpm
   BP: 119/57(72) {118/56(72) - 155/90(98)} mmHg
   RR: 40 (22 - 49) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 2 (-3 - 3)mmHg
   Total In:
                                                                    758 mL
                                                                    229 mL
   PO:
                                                                    170 mL
   TF:
   IVF:
                                                                    588 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  4,095 mL
                                                                    780 mL
   Urine:
                                                                  4,095 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,337 mL
                                                                   -551 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 701 (280 - 701) mL
   PS : 15 cmH2O
   RR (Spontaneous): 39
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.45/50/34/39/8
   Ve: 11.8 L/min
   PaO2 / FiO2: 57
   Physical Examination
   General Appearance: Cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   37 K/uL
   9.6 g/dL
   98 mg/dL
   0.9 mg/dL
   39 mEq/L
   3.7 mEq/L
   23 mg/dL
   96 mEq/L
   140 mEq/L
   28.7 %
   24.5 K/uL
        [image002.jpg]
                             [**2110-1-20**]  12:00 AM
                             [**2110-1-20**]  12:09 AM
                             [**2110-1-20**]  05:41 AM
                             [**2110-1-20**]  05:58 AM
                             [**2110-1-20**]  10:06 AM
                             [**2110-1-20**]  02:07 PM
                             [**2110-1-20**]  05:52 PM
                             [**2110-1-20**]  06:46 PM
                             [**2110-1-21**]  04:44 AM
                             [**2110-1-21**]  07:02 AM
   WBC
   33.1
   30.7
   24.5
   Hct
   30.7
   30.9
   28.7
   Plt
   23
   21
   37
   Cr
   0.9
   0.8
   0.8
   0.9
   TropT
   <0.01
   TCO2
   26
   29
   32
   33
   35
   36
   Glucose
   89
   86
   95
   98
   Other labs: PT / PTT / INR:13.5/35.9/1.2, CK / CKMB /
   Troponin-T:22/3/<0.01, ALT / AST:31/39, Alk Phos / T Bili:389/1.4,
   Differential-Neuts:61.2 %, Lymph:32.6 %, Mono:3.1 %, Eos:2.2 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:675 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   53 y/o woman with metastatic melanoma who is admitted to the [**Hospital Unit Name 1**] from
   the OMED biologics service due to respiratory distress.
   # Hypoxic respiratory failure:  Patient currently satting well on
   non-rebreather but has a high A-a gradient.  Differential includes
   pulmonary edema, systolic heart failure, pneumonia, and pulmonary
   embolism, but most likely etiology is pulmonary edema from vasogenic
   leak, a known complication of IL-2 therapy.  Initially was diuresed
   aggressively but now with metabolic contraction alkolosis on [**2110-1-21**].
   - continue to follow ABGs
   - consider chest CTA if hypoxia does not resolve but no empiric
   anticoagulation given thrombocytopenia
   - consider lasix bolus if CVP increases
   # Leukocytosis:  [**Month (only) 51**] represent chemo affect but also concerning for
   infection.
   - pan cx (blood, urine)
   - send c diff
   - continue vanc and zosyn until blood cx negative x 72 hours
   - will d/c cephalexin (given by Heme/onc service as CVL infection ppx)
   but restart when vanc stopped
   # Elevated LFTs:  Likely secondary to IL-2 as this is a known adverse
   effect.  Trending down after peaking on [**2110-1-18**].  Other possibilities
   include viral hepatitis and cholecystitis.
   - check RUQ U/S
   - continue to trend and consider further ID evaluation if indicated
   # RLE edema: Has been persistent since [**2109-11-11**] and was actually
   patient's presenting symptom at the time of work-up for recurrent
   melanoma.  Likely secondary to pelvic compression of iliac vein from
   pelvic metastatic masses but should r/o DVT.
   - LENIs
   # Melanoma:  Initially had melanoma on left thigh in [**2105**] and again in
   [**2106**]; excised both times.  Received IFN-alpha after first melanoma but
   d/c'd because of peripheral neuropathy.  S/p IL-2 with last dose on
   [**2110-1-17**].  Will defer further mgmnt to heme onc.
   - f/u heme onc reccs
   # Depression/Anxiety:  continue home meds
   # Pain control:  continue oxycodone
   # Smoking history:  continue buproprion, nicotine patch
   # FEN: regular diet
   # CODE: FULL, discussed with patient
   # DiSPO: to OMED if Hct stable in AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-1-20**] 12:45 AM
   Prophylaxis:
   DVT:  pneumoboots (not on heparin sc)
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2110-01-22 07:09:00 Physician Resident Progress Note
Chief Complaint: 53 y/o woman with metastatic melanoma who is admitted
   to the [**Hospital Unit Name 1**] from the OMED biologics service due to respiratory
   distress.
   24 Hour Events:
   - I and O goal per CVP
   -D/C Keflex- likely will need to restart once vanco/zosyn stopped for
   line ppx
   -d/c'd lasix gtt
   -clear liquid diet ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2110-1-21**] 03:22 PM
   Vancomycin - [**2110-1-21**] 07:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2110-1-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2110-1-21**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-1-22**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 77 (76 - 94) bpm
   BP: 137/75(89) {78/47(63) - 137/82(90)} mmHg
   RR: 24 (18 - 44) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (4 - 8)mmHg
   Total In:
                                                                  1,139 mL
                                                                    221 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    959 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                    310 mL
   Urine:
                                                                  3,120 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,981 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   54 K/uL
   8.6 g/dL
   84 mg/dL
   1.0 mg/dL
   39 mEq/L
   3.4 mEq/L
   22 mg/dL
   94 mEq/L
   138 mEq/L
   26.2 %
   16.6 K/uL
        [image002.jpg]
                             [**2110-1-20**]  05:41 AM
                             [**2110-1-20**]  05:58 AM
                             [**2110-1-20**]  10:06 AM
                             [**2110-1-20**]  02:07 PM
                             [**2110-1-20**]  05:52 PM
                             [**2110-1-20**]  06:46 PM
                             [**2110-1-21**]  04:44 AM
                             [**2110-1-21**]  07:02 AM
                             [**2110-1-21**]  06:02 PM
                             [**2110-1-22**]  03:40 AM
   WBC
   30.7
   24.5
   16.6
   Hct
   30.9
   28.7
   26.2
   Plt
   21
   37
   54
   Cr
   0.8
   0.8
   0.9
   0.9
   1.0
   TropT
   <0.01
   TCO2
   29
   32
   33
   35
   36
   Glucose
   86
   95
   98
   99
   84
   Other labs: PT / PTT / INR:14.2/39.1/1.2, CK / CKMB /
   Troponin-T:22/3/<0.01, ALT / AST:23/26, Alk Phos / T Bili:341/1.0,
   Differential-Neuts:61.2 %, Lymph:32.6 %, Mono:3.1 %, Eos:2.2 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:531 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   53 y/o woman with metastatic melanoma who is admitted to the [**Hospital Unit Name 1**] from
   the OMED biologics service due to respiratory distress.
   # Hypoxic respiratory failure:  Patient currently satting well on
   non-rebreather but has a high A-a gradient secondary to pulmonary edema
   from vasogenic leak, a known complication of IL-2 therapy.  Other less
   likely possiblities include pna and PE.  Initially was diuresed
   aggressively but now with metabolic contraction alkolosis on [**2110-1-21**].
   - continue to follow ABGs
   - continue non-rebreather
   - consider lasix bolus if CVP increases
   - continue vanc/zosyn for now
   - anticipate that respiratory status will gradually improve with time
   # Leukocytosis:  [**Month (only) 51**] represent chemo affect but also concerning for
   infection.
   - pan cx (blood, urine)
   - send c diff
   - continue vanc and zosyn until blood cx negative x 72 hours
   - will d/c cephalexin (given by Heme/onc service as CVL infection ppx)
   but restart when vanc stopped
   # Elevated LFTs:  Likely secondary to IL-2 as this is a known adverse
   effect.  Trending down after peaking on [**2110-1-18**].  Negative RUQ U/S on
   [**2110-1-20**].
   - continue to trend and consider further ID evaluation if indicated
   # RLE edema: Has been persistent since [**2109-11-11**] and was actually
   patient's presenting symptom at the time of work-up for recurrent
   melanoma.  Secondary to pelvic compression of iliac vein from pelvic
   metastatic masses.  No DVT on LENIs.
   - continue to follow
   # Melanoma:  Initially had melanoma on left thigh in [**2105**] and again in
   [**2106**]; excised both times.  Received IFN-alpha after first melanoma but
   d/c'd because of peripheral neuropathy.  S/p IL-2 with last dose on
   [**2110-1-17**].  Will defer further mgmnt to heme onc.
   - f/u heme onc reccs
   # Depression/Anxiety:  continue home meds
   # Pain control:  continue oxycodone
   # Smoking history:  continue buproprion, nicotine patch
   # FEN: regular diet
   # CODE: FULL, discussed with patient
   # DiSPO: to OMED if Hct stable in AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-1-20**] 12:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: